US05571821
N-(4-Bromo-3-methyl-5-isoxazolyl)-5-(benzenesulfonyl)thiophene-2-sulfonamide was prepared: in the same manner as described in Example 2 from 5-amino-4-bromo-3-methylisoxazole and 5-benzenesulfonylthiophene-2-sulphonyl chloride in 59% yield. Purification was achieved by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 139°-142° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 5-benzenesulfonylthiophene-2-sulphonyl chloride | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(S1)S(=O)(=O)Cl | C10H7ClO4S3
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-5-(benzenesulfonyl)thiophene-2-sulfonamide | 59% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)S(=O)(=O)C1=CC=CC=C1)C | C14H11BrN2O5S3
